US09107411B2
2,2,2-Trifluoro-1-[3-fluoro-3-(trifluoromethyl)phenyl]ethanamine (0.75 g, 3.08 mmol) was dissolved in N,N-dimethylformamide (52 ml), and 5-{[(tert-butoxycarbonyl)amino]methyl}-6-chloro-1H-indole-2-carboxylic acid (1.00 g, 3.08 mmol), N-[(1H-benzotriazol-1-yloxy)(dimethylamino)methylene]-N-methylmethanaminium hexafluorophosphate (1.17 g, 3.08 mmol) and 4-methylmorpholine (0.93 g, 9.24 mmol) were added. The reaction mixture was stirred at room temperature for 16 h and then water and ethyl acetate were added. After phase separation, the organic phase was washed with dilute sodium hydrogencarbonate solution and saturated sodium chloride solution and dried over sodium sulphate, and the solvent was removed under reduced pressure. The residue was chromatographed with cyclohexane/ethyl acetate (5/1). 0.75 g (40% of theory) of tert-butyl {[6-chloro-2-({2,2,2-trifluoro-1-[3-(trifluoromethyl)phenyl]ethyl}carbamoyl)-1H-indol-5-yl]methyl}carbamate was obtained.

reactant | 2,2,2-Trifluoro-1-[3-fluoro-3-(trifluoromethyl)phenyl]ethanamine | 3.08 mmol, 0.75 g | FC(C(N)C=1CC(C=CC1)(C(F)(F)F)F)(F)F | C9H8F7N
reactant | 5-{[(tert-butoxycarbonyl)amino]methyl}-6-chloro-1H-indole-2-carboxylic acid | 3.08 mmol, 1.00 g | C(C)(C)(C)OC(=O)NCC=1C=C2C=C(NC2=CC1Cl)C(=O)O | C15H17ClN2O4
reactant | N-[(1H-benzotriazol-1-yloxy)(dimethylamino)methylene]-N-methylmethanaminium hexafluorophosphate | 3.08 mmol, 1.17 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 4-methylmorpholine | 9.24 mmol, 0.93 g | CN1CCOCC1 | C5H11NO
solvent | N,N-dimethylformamide | 52 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | tert-butyl {[6-chloro-2-({2,2,2-trifluoro-1-[3-(trifluoromethyl)phenyl]ethyl}carbamoyl)-1H-indol-5-yl]methyl}carbamate | 0.75 g, 40% | ClC1=C(C=C2C=C(NC2=C1)C(NC(C(F)(F)F)C1=CC(=CC=C1)C(F)(F)F)=O)CNC(OC(C)(C)C)=O | C24H22ClF6N3O3
